US07910591B2
6-Fluoro-3-[4-(4-pyridin-2-yl-piperazine-1-yl)-butyl]-1,3-dihydro-2H-indol-2-one
The title compound is prepared according to process B by applying processing method 1 starting from 6-fluoro-3-(4-mesyloxybutyl)-1,3-dihydro-2H-indol-2-one and 1-(pyridin-2-yl)-piperazine.

reactant | 6-fluoro-3-(4-mesyloxybutyl)-1,3-dihydro-2H-indol-2-one | FC1=CC=C2C(C(NC2=C1)=O)CCCCOS(=O)(=O)C | C13H16FNO4S
reactant | 1-(pyridin-2-yl)-piperazine | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
product | 6-Fluoro-3-[4-(4-pyridin-2-yl-piperazine-1-yl)-butyl]-1,3-dihydro-2H-indol-2-one | FC1=CC=C2C(C(NC2=C1)=O)CCCCN1CCN(CC1)C1=NC=CC=C1 | C21H25FN4O
